US09029411B2
A mixture of 3-morpholin-4-yl-2-(morpholin-4-ylcarbonothioyl)acrylonitrile (0.07 g, 0.26 mmol), ethyl iodoacetate (0.034 mL, 0.29 mmol) and DIPEA (0.091 mL, 0.52 mmol) in ACN (0.55 mL) was subjected to MWI at 120° C. for 10 min. The crystals formed upon cooling were filtered, washed with cold MeOH and diethyl ether to give ethyl 4-cyano-5-morpholin-4-ylthiophene-2-carboxylate (0.06 g, 87%). LCMS: (AA) ES+ 267.1. 1H NMR (400 MHz, CDCl3) δ: 7.62 s, 1H), 4.30 (q, 2H), 3.85-3.87 (m, 4H), 3.58-3.60 (m, 4H) and 1.34 (t, 3H).

reactant | 3-morpholin-4-yl-2-(morpholin-4-ylcarbonothioyl)acrylonitrile | 0.26 mmol, 0.07 g | N1(CCOCC1)C=C(C#N)C(=S)N1CCOCC1 | C12H17N3O2S
reactant | ethyl iodoacetate | 0.29 mmol, 0.034 mL | ICC(=O)OCC | C4H7IO2
reactant | DIPEA | 0.52 mmol, 0.091 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ACN | 0.55 mL | C(C)#N | C2H3N
product | ethyl 4-cyano-5-morpholin-4-ylthiophene-2-carboxylate | 0.06 g, 87% | C(#N)C=1C=C(SC1N1CCOCC1)C(=O)OCC | C12H14N2O3S
